US08426420B2
i) piperazine-1,4-dicarboxylic acid propyl ester tert-butyl ester
To a solution of 5.0 g tert-butyl 1-piperazinecarboxylate in 64 ml dichloromethane were added 8.2 ml triethylamine. The solution was cooled to 0° C. and 3.3 ml propylchloroformate were added dropwise at this temperature. After stirring for 12 h the reaction mixture was diluted with dichloromethane and washed with 0.1 M HCl and saturated NaHCO3. The crude product obtained after evaporation of the solvent was directly used in the next reaction step.

reactant | tert-butyl 1-piperazinecarboxylate | 5.0 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 8.2 ml | C(C)N(CC)CC | C6H15N
reactant | propylchloroformate | 3.3 ml | C(CC)OC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 64 ml | ClCCl | CH2Cl2
product | piperazine-1,4-dicarboxylic acid propyl ester tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OCCC | C13H24N2O4
